US05877202
Combine (4-methoxyphenyl)-hydrazine hydrochloride salt (10 g, 57 mmol), sodium hydroxide solution (50 mL, 1M), and extract with toluene. Dry the organic layer over MgSO4, filter, and evaporate in vacuo to give a residue. Combine the residue and toluene (50 mL) and cool to 0° C. Add acetaldehyde (3.5 mL, 63 mmol) dropwise as a solution in toluene (10 mL). When the addition is complete, warm to ambient temperature. After 1 hour at ambient temperature evaporate under a stream of nitrogen to give N-(4-methoxyphenyl)-N'-ethylidene hydrazine.

reactant | (4-methoxyphenyl)-hydrazine hydrochloride salt | 57 mmol, 10 g | Cl.COC1=CC=C(C=C1)NN
reactant | sodium hydroxide | 1M, 50 mL | [OH-].[Na+]
reactant | acetaldehyde | 63 mmol, 3.5 mL | C(C)=O | C2H4O
solvent | toluene | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 10 mL | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 50 mL | C1(=CC=CC=C1)C | C7H8
product | N-(4-methoxyphenyl)-N'-ethylidene hydrazine | COC1=CC=C(C=C1)NN=CC | C9H12N2O
